US04731471
Step F: Methyl {[2-(2-Acetoxyethyl)-6,7-dichloro-2,3-dihydro-1-oxo-1H-inden-5-yl]oxy}acetate
2-(Acetoxyethyl)-6,7-dichloro-2,3-dihydro-5-hydroxy-1H-inden-1-one (5.8 gm, 0.0191 mole), potassium carbonate (3.97 gm, 0.0287 mole), methyl bromoacetate (3.52 gm, 0.023 mole) in dry N,N-dimethylformamide (35 ml) were stirred and heated at 60° C. for 3 hours. The mixture was cooled and poured into a mixture of water and ice containing hydrochloric acid. The resulting mixture was extracted with a mixture of ether and tetrahydrofuran then methylene chloride. The combined organic extracts were washed with water, then with brine and finally dried over MgSO4. Evaporation of the solvent gave 6.9 gm of residue which was purified by column chromatography using silica (300 gm) and eluting with a 50/1 mixture of methylene chloride and tetrahydrofuran. Combining the appropriate fractions and evaporating the solvent gave 3.3 gm of product, m.p. 111°-113° C.

reactant | 2-(Acetoxyethyl)-6,7-dichloro-2,3-dihydro-5-hydroxy-1H-inden-1-one | 0.0191 mole, 5.8 gm | C(C)(=O)OCCC1C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O | C13H12Cl2O4
reactant | potassium carbonate | 0.0287 mole, 3.97 gm | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.023 mole, 3.52 gm | BrCC(=O)OC | C3H5BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl {[2-(2-Acetoxyethyl)-6,7-dichloro-2,3-dihydro-1-oxo-1H-inden-5-yl]oxy}acetate | 6.9 gm | C(C)(=O)OCCC1C(C2=C(C(=C(C=C2C1)OCC(=O)OC)Cl)Cl)=O | C16H16Cl2O6
